US06596751B2
4-Methoxymethoxy-2,3,5-trimethylphenol
Sodium hydride (8.51 g, 55% suspension in mineral oil) was added to a solution of 4-hydroxy-2,3,5-trimethylphenol pivalate (35.4 g) in tetrahydrofuran (300 ml) at room temperature. The mixture was stirred for 30 minutes. To the reaction mixture was added dropwise methoxymethyl chloride (15.7 g). This mixture was stirred at room temperature for 1 hour. The solvent of the reaction mixture was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in methanol (100 ml) and to this solution was added dropwise a solution of potassium hydroxide (16.8 g) in methanol (100 ml). The mixture was stirred at room temperature and concentrated under reduced pressure. The residue was neutralized with 3N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane:ethyl acetate=5:1 as the eluant to afford the title compound (27.5 g, Rf=0.16: thin layer chromatography on a silica gel plate using hexane:ethyl acetate=4:1 as the eluant).

reactant | Sodium hydride | 8.51 g | [H-].[Na+]
reactant | 4-hydroxy-2,3,5-trimethylphenol pivalate | 35.4 g | C(C(C)(C)C)(=O)OC1=C(C(=C(C(=C1)C)O)C)C | C14H20O3
reactant | methoxymethyl chloride | 15.7 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-Methoxymethoxy-2,3,5-trimethylphenol | COCOC1=C(C(=C(C=C1C)O)C)C | C11H16O3
